US03998834
A mixture of 3.34 parts of (2-bromoethyl)benzene, 4.80 parts of propyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate, 2.02 parts of N,N-diethylethanamine and 81 parts of N,N-dimethylacetamide is stirred and heated for 3 hours at 70°-80° C. The reaction mixture is cooled and poured onto 400 parts of water. The product is extracted with 1,1'-oxybisethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 15% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanone, yielding propyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate ethanedioate; mp. 215.7° C.

reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | propyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OCCC | C18H26N2O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | water | O | H2O
product | propyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.O=C(CC)N(C1=CC=CC=C1)C1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OCCC | InChI=1S/C26H34N2O3.C2H2O4/c1-3-21-31-25(30)26(28(24(29)4-2)23-13-9-6-10-14-23)16-19-27(20-17-26)18-15-22-11-7-5-8-12-22;3-1(4)2(5)6/h5-14H,3-4,15-21H2,1-2H3;(H,3,4)(H,5,6)
